* wirebench — default SPICE model library
*
* Behavioural placeholders for the chips and devices supported by the
* wirebench component library. Pin order in each .SUBCKT matches the
* exporter's datasheet-pin-number sort, so swapping in a vendor-supplied
* model is a one-line .LIB change.

.MODEL D_LED D(IS=1E-15 N=2.0 BV=5.0)

* -----------------------------------------------------------------
* SN74HC04 — hex inverter. Pin order (datasheet 14-DIP, GND/VCC omitted):
*   1=a_1 2=y_1 3=a_2 4=y_2 5=a_3 6=y_3 8=y_4 9=a_4 10=y_5 11=a_5 12=y_6 13=a_6
.SUBCKT SN74HC04 a_1 y_1 a_2 y_2 a_3 y_3 y_4 a_4 y_5 a_5 y_6 a_6
By1 y_1 0 V = IF(V(a_1) > 2.5, 0, 5)
By2 y_2 0 V = IF(V(a_2) > 2.5, 0, 5)
By3 y_3 0 V = IF(V(a_3) > 2.5, 0, 5)
By4 y_4 0 V = IF(V(a_4) > 2.5, 0, 5)
By5 y_5 0 V = IF(V(a_5) > 2.5, 0, 5)
By6 y_6 0 V = IF(V(a_6) > 2.5, 0, 5)
.ENDS SN74HC04

* CD4069UB — hex unbuffered inverter. Identical pin map to SN74HC04.
.SUBCKT CD4069 a_1 y_1 a_2 y_2 a_3 y_3 y_4 a_4 y_5 a_5 y_6 a_6
By1 y_1 0 V = IF(V(a_1) > 2.5, 0, 5)
By2 y_2 0 V = IF(V(a_2) > 2.5, 0, 5)
By3 y_3 0 V = IF(V(a_3) > 2.5, 0, 5)
By4 y_4 0 V = IF(V(a_4) > 2.5, 0, 5)
By5 y_5 0 V = IF(V(a_5) > 2.5, 0, 5)
By6 y_6 0 V = IF(V(a_6) > 2.5, 0, 5)
.ENDS CD4069

* LM393 — dual comparator. Pin order (8-DIP, GND/VCC omitted):
*   1=out_1 2=v_minus_1 3=v_plus_1 5=v_plus_2 6=v_minus_2 7=out_2
.SUBCKT LM393 out_1 v_minus_1 v_plus_1 v_plus_2 v_minus_2 out_2
Bo1 out_1 0 V = IF(V(v_plus_1) > V(v_minus_1), 5, 0)
Bo2 out_2 0 V = IF(V(v_plus_2) > V(v_minus_2), 5, 0)
.ENDS LM393

* CD4043B — quad NOR-based RS latch with tri-state outputs.
* Pin order (16-DIP, VSS/NC/VDD omitted):
*   1=q_1 2=r_1 3=s_1 4=q_2 5=s_2 6=r_2 7=oe 9=r_3 10=s_3 11=q_3
*   12=s_4 13=r_4 14=q_4
* Behavioural placeholder — replace with vendor model for accurate
* latching dynamics.  Outputs are simple SR-derived expressions and
* do not retain state across simulator time-steps.
.SUBCKT CD4043 q_1 r_1 s_1 q_2 s_2 r_2 oe r_3 s_3 q_3 s_4 r_4 q_4
Bq1 q_1 0 V = IF(V(oe) > 2.5, IF(V(s_1) > 2.5, 5, IF(V(r_1) > 2.5, 0, V(q_1))), 0)
Bq2 q_2 0 V = IF(V(oe) > 2.5, IF(V(s_2) > 2.5, 5, IF(V(r_2) > 2.5, 0, V(q_2))), 0)
Bq3 q_3 0 V = IF(V(oe) > 2.5, IF(V(s_3) > 2.5, 5, IF(V(r_3) > 2.5, 0, V(q_3))), 0)
Bq4 q_4 0 V = IF(V(oe) > 2.5, IF(V(s_4) > 2.5, 5, IF(V(r_4) > 2.5, 0, V(q_4))), 0)
.ENDS CD4043

* ULN2003A — seven-channel Darlington array (open-collector).
* Pin order (16-DIP, GND/COM omitted):
*   1=in_1 2=in_2 3=in_3 4=in_4 5=in_5 6=in_6 7=in_7
*   10=out_7 11=out_6 12=out_5 13=out_4 14=out_3 15=out_2 16=out_1
.SUBCKT ULN2003A in_1 in_2 in_3 in_4 in_5 in_6 in_7 out_7 out_6 out_5 out_4 out_3 out_2 out_1
Bo1 out_1 0 V = IF(V(in_1) > 1.0, 0, 5)
Bo2 out_2 0 V = IF(V(in_2) > 1.0, 0, 5)
Bo3 out_3 0 V = IF(V(in_3) > 1.0, 0, 5)
Bo4 out_4 0 V = IF(V(in_4) > 1.0, 0, 5)
Bo5 out_5 0 V = IF(V(in_5) > 1.0, 0, 5)
Bo6 out_6 0 V = IF(V(in_6) > 1.0, 0, 5)
Bo7 out_7 0 V = IF(V(in_7) > 1.0, 0, 5)
.ENDS ULN2003A



* === 74HC logic family ===

* -----------------------------------------------------------------
* SN74HC00 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT SN74HC00 1A 1B 1Y 2A 2B 2Y GND 3Y 3A 3B 4Y 4A 4B VCC
* Replace with vendor SPICE model for accurate simulation.
.ENDS SN74HC00

* -----------------------------------------------------------------
* SN74HC02 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT SN74HC02 1Y 1A 1B 2Y 2A 2B GND 3A 3B 3Y 4A 4B 4Y VCC
* Replace with vendor SPICE model for accurate simulation.
.ENDS SN74HC02

* -----------------------------------------------------------------
* SN74HC08 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT SN74HC08 1A 1B 1Y 2A 2B 2Y GND 3Y 3A 3B 4Y 4A 4B VCC
* Replace with vendor SPICE model for accurate simulation.
.ENDS SN74HC08

* -----------------------------------------------------------------
* SN74HC32 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT SN74HC32 1A 1B 1Y 2A 2B 2Y GND 3Y 3A 3B 4Y 4A 4B VCC
* Replace with vendor SPICE model for accurate simulation.
.ENDS SN74HC32

* -----------------------------------------------------------------
* SN74HC74 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT SN74HC74 1CLR 1D 1CLK 1PRE 1Q 1Q_BAR GND 2Q_BAR 2Q 2PRE 2CLK 2D 2CLR VCC
* Replace with vendor SPICE model for accurate simulation.
.ENDS SN74HC74

* -----------------------------------------------------------------
* SN74HC86 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT SN74HC86 1A 1B 1Y 2A 2B 2Y GND 3Y 3A 3B 4Y 4A 4B VCC
* Replace with vendor SPICE model for accurate simulation.
.ENDS SN74HC86

* -----------------------------------------------------------------
* SN74HC138 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT SN74HC138 A B C G2A G2B G1 Y7 GND Y6 Y5 Y4 Y3 Y2 Y1 Y0 VCC
* Replace with vendor SPICE model for accurate simulation.
.ENDS SN74HC138

* -----------------------------------------------------------------
* SN74HC139 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT SN74HC139 1G 1A 1B 1Y0 1Y1 1Y2 1Y3 GND 2Y3 2Y2 2Y1 2Y0 2B 2A 2G VCC
* Replace with vendor SPICE model for accurate simulation.
.ENDS SN74HC139

* -----------------------------------------------------------------
* SN74HC151 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT SN74HC151 D3 D2 D1 D0 Y W G GND C B A D7 D6 D5 D4 VCC
* Replace with vendor SPICE model for accurate simulation.
.ENDS SN74HC151

* -----------------------------------------------------------------
* SN74HC157 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT SN74HC157 A_B 1A 1B 1Y 2A 2B 2Y GND 3Y 3B 3A 4Y 4B 4A G VCC
* Replace with vendor SPICE model for accurate simulation.
.ENDS SN74HC157

* -----------------------------------------------------------------
* SN74HC165 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT SN74HC165 SH_LD CLK E F G H QH_BAR GND QH SER A B C D CLK_INH VCC
* Replace with vendor SPICE model for accurate simulation.
.ENDS SN74HC165

* -----------------------------------------------------------------
* SN74HC174 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT SN74HC174 CLR 1Q 1D 2D 2Q 3D 3Q GND CLK 4Q 4D 5Q 5D 6D 6Q VCC
* Replace with vendor SPICE model for accurate simulation.
.ENDS SN74HC174

* -----------------------------------------------------------------
* SN74HC273 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT SN74HC273 CLR 1Q 1D 2D 2Q 3Q 3D 4D 4Q GND CLK 5Q 5D 6D 6Q 7Q 7D 8D 8Q VCC
* Replace with vendor SPICE model for accurate simulation.
.ENDS SN74HC273

* -----------------------------------------------------------------
* SN74HC541 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT SN74HC541 OE1 A1 A2 A3 A4 A5 A6 A7 A8 GND Y8 Y7 Y6 Y5 Y4 Y3 Y2 Y1 OE2 VCC
* Replace with vendor SPICE model for accurate simulation.
.ENDS SN74HC541

* -----------------------------------------------------------------
* SN74HC595 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT SN74HC595 QB QC QD QE QF QG QH GND QH_PRIME SRCLR SRCLK RCLK OE SER QA VCC
* Replace with vendor SPICE model for accurate simulation.
.ENDS SN74HC595

* === op-amps ===

* -----------------------------------------------------------------
* LM358 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT LM358 OUT1 IN1_NEG IN1_POS V_GND IN2_POS IN2_NEG OUT2 V_POS
* Replace with vendor SPICE model for accurate simulation.
.ENDS LM358

* -----------------------------------------------------------------
* LM324 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT LM324 OUT1 IN1_NEG IN1_POS V_POS IN2_POS IN2_NEG OUT2 OUT3 IN3_NEG IN3_POS V_GND IN4_POS IN4_NEG OUT4
* Replace with vendor SPICE model for accurate simulation.
.ENDS LM324

* -----------------------------------------------------------------
* TL072 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT TL072 OUT1 IN1_NEG IN1_POS V_NEG IN2_POS IN2_NEG OUT2 V_POS
* Replace with vendor SPICE model for accurate simulation.
.ENDS TL072

* -----------------------------------------------------------------
* TL074 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT TL074 OUT1 IN1_NEG IN1_POS V_POS IN2_POS IN2_NEG OUT2 OUT3 IN3_NEG IN3_POS V_NEG IN4_POS IN4_NEG OUT4
* Replace with vendor SPICE model for accurate simulation.
.ENDS TL074

* -----------------------------------------------------------------
* LM741 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT LM741 OFFSET_N1 IN_NEG IN_POS V_NEG OFFSET_N2 OUT V_POS
* Replace with vendor SPICE model for accurate simulation.
.ENDS LM741

* -----------------------------------------------------------------
* MCP6002 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT MCP6002 OUT1 IN1_NEG IN1_POS VSS IN2_POS IN2_NEG OUT2 VDD
* Replace with vendor SPICE model for accurate simulation.
.ENDS MCP6002

* -----------------------------------------------------------------
* OPA2134 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT OPA2134 OUT1 IN1_NEG IN1_POS V_NEG IN2_POS IN2_NEG OUT2 V_POS
* Replace with vendor SPICE model for accurate simulation.
.ENDS OPA2134

* -----------------------------------------------------------------
* LMV358 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT LMV358 OUT1 IN1_NEG IN1_POS V_GND IN2_POS IN2_NEG OUT2 V_POS
* Replace with vendor SPICE model for accurate simulation.
.ENDS LMV358

* === comparators ===

* -----------------------------------------------------------------
* LM339 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT LM339 OUT2 OUT1 VCC IN1_NEG IN1_POS IN2_NEG IN2_POS IN3_NEG IN3_POS IN4_NEG IN4_POS GND OUT4 OUT3
* Replace with vendor SPICE model for accurate simulation.
.ENDS LM339

* -----------------------------------------------------------------
* TLV3401 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT TLV3401 OUT GND IN_POS IN_NEG VCC
* Replace with vendor SPICE model for accurate simulation.
.ENDS TLV3401

* -----------------------------------------------------------------
* LM311 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT LM311 EMIT_OUT IN_POS IN_NEG VCC_NEG BALANCE BAL_STRB COL_OUT VCC_POS
* Replace with vendor SPICE model for accurate simulation.
.ENDS LM311

* === regulators ===

* -----------------------------------------------------------------
* LM7805 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT LM7805 INPUT GND OUTPUT
* Replace with vendor SPICE model for accurate simulation.
.ENDS LM7805

* -----------------------------------------------------------------
* LM7812 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT LM7812 INPUT GND OUTPUT
* Replace with vendor SPICE model for accurate simulation.
.ENDS LM7812

* -----------------------------------------------------------------
* LM7905 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT LM7905 GND INPUT OUTPUT
* Replace with vendor SPICE model for accurate simulation.
.ENDS LM7905

* -----------------------------------------------------------------
* LM317 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT LM317 ADJ OUTPUT INPUT
* Replace with vendor SPICE model for accurate simulation.
.ENDS LM317

* -----------------------------------------------------------------
* LM337 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT LM337 ADJ INPUT OUTPUT
* Replace with vendor SPICE model for accurate simulation.
.ENDS LM337

* -----------------------------------------------------------------
* AMS1117_33 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT AMS1117_33 GND OUTPUT INPUT OUTPUT_TAB
* Replace with vendor SPICE model for accurate simulation.
.ENDS AMS1117_33

* -----------------------------------------------------------------
* AMS1117_50 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT AMS1117_50 GND OUTPUT INPUT OUTPUT_TAB
* Replace with vendor SPICE model for accurate simulation.
.ENDS AMS1117_50

* -----------------------------------------------------------------
* LP2950 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT LP2950 INPUT GND OUTPUT
* Replace with vendor SPICE model for accurate simulation.
.ENDS LP2950

* === specialty ICs ===

* -----------------------------------------------------------------
* NE555 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT NE555 GND TRIG OUT RESET CONT THRES DISCH VCC
* Replace with vendor SPICE model for accurate simulation.
.ENDS NE555

* -----------------------------------------------------------------
* LM386 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT LM386 GAIN_1 INPUT_NEG INPUT_POS GND VOUT VS BYPASS GAIN_2
* Replace with vendor SPICE model for accurate simulation.
.ENDS LM386

* -----------------------------------------------------------------
* DS18B20 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT DS18B20 GND DQ VDD
* Replace with vendor SPICE model for accurate simulation.
.ENDS DS18B20

* -----------------------------------------------------------------
* DS1307 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT DS1307 X1 X2 VBAT GND SDA SCL SQW_OUT VCC
* Replace with vendor SPICE model for accurate simulation.
.ENDS DS1307

* -----------------------------------------------------------------
* MAX7219 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT MAX7219 DIN DIG_0 DIG_4 GND_1 DIG_6 DIG_2 DIG_3 DIG_7 GND_2 DIG_5 DIG_1 LOAD CLK SEG_A SEG_F SEG_B SEG_G ISET V_POS SEG_C SEG_E SEG_DP SEG_D DOUT
* Replace with vendor SPICE model for accurate simulation.
.ENDS MAX7219

* === sensors ===

* -----------------------------------------------------------------
* TMP36 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT TMP36 Vs_plus VOUT GND
* Replace with vendor SPICE model for accurate simulation.
.ENDS TMP36

* -----------------------------------------------------------------
* BMP280 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT BMP280 GND_1 CSB SDI_SDA SCK_SCL SDO_ADDR VDDIO GND_2 VDD
* Replace with vendor SPICE model for accurate simulation.
.ENDS BMP280

* -----------------------------------------------------------------
* MPU6050 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT MPU6050 CLKIN AUX_DA AUX_CL VLOGIC AD0 REGOUT FSYNC INT VDD GND CPOUT SCL SDA
* Replace with vendor SPICE model for accurate simulation.
.ENDS MPU6050

* -----------------------------------------------------------------
* HCSR04 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT HCSR04 VCC TRIG ECHO GND
* Replace with vendor SPICE model for accurate simulation.
.ENDS HCSR04

* === power/interface ===

* -----------------------------------------------------------------
* MOC3021 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT MOC3021 ANODE CATHODE MT1 MT2
* Replace with vendor SPICE model for accurate simulation.
.ENDS MOC3021

* -----------------------------------------------------------------
* OPTO_4N25 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT OPTO_4N25 ANODE CATHODE EMITTER COLLECTOR BASE
* Replace with vendor SPICE model for accurate simulation.
.ENDS OPTO_4N25

* -----------------------------------------------------------------
* OPTO_TLP521 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT OPTO_TLP521 ANODE CATHODE EMITTER COLLECTOR
* Replace with vendor SPICE model for accurate simulation.
.ENDS OPTO_TLP521

* -----------------------------------------------------------------
* TLC5940 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT TLC5940 OUT1 OUT0 VPRG SIN SCLK XLAT BLANK GND VCC IREF DCPRG GSCLK SOUT XERR OUT15 OUT14 OUT13 OUT12 OUT11 OUT10 OUT9 OUT8 OUT7 OUT6 OUT5 OUT4 OUT3 OUT2
* Replace with vendor SPICE model for accurate simulation.
.ENDS TLC5940

* -----------------------------------------------------------------
* MAX232 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT MAX232 C1_POS V_POS C1_NEG C2_POS C2_NEG V_NEG T2OUT R2IN R2OUT T2IN T1IN R1OUT R1IN T1OUT GND VCC
* Replace with vendor SPICE model for accurate simulation.
.ENDS MAX232

* === microcontrollers ===

* -----------------------------------------------------------------
* ATmega328P — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT ATmega328P PC6 PD0 PD1 PD2 PD3 PD4 VCC GND_1 PB6 PB7 PD5 PD6 PD7 PB0 PB1 PB2 PB3 PB4 PB5 AVCC AREF GND_2 PC0 PC1 PC2 PC3 PC4 PC5
* Replace with vendor SPICE model for accurate simulation.
.ENDS ATmega328P

* -----------------------------------------------------------------
* ATmega2560 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT ATmega2560 PG5 PE0 PE1 PE2 PE3 PE4 PE5 PE6 PE7 VCC_1 GND_1 PH0 PH1 PH2 PH3 PH4 PH5 PH6 PB0 PB1 PB2 PB3 PB4 PB5 PB6 PB7 PH7 PG3 PG4 RESET VCC_2 GND_2 XTAL2 XTAL1 PL0 PL1 PL2 PL3 PL4 PL5 PL6 PL7 PD0 PD1 PD2 PD3 PD4 PD5 PD6 PD7 PG0 PG1 PC0 PC1 PC2 PC3 PC4 PC5 PC6 PC7 VCC_3 GND_3 PJ0 PJ1 PJ2 PJ3 PJ4 PJ5 PJ6 PG2 PA7 PA6 PA5 PA4 PA3 PA2 PA1 PA0 PJ7 VCC_4 GND_4 PK7 PK6 PK5 PK4 PK3 PK2 PK1 PK0 PF7 PF6 PF5 PF4 PF3 PF2 PF1 PF0 AREF GND_5 AVCC
* Replace with vendor SPICE model for accurate simulation.
.ENDS ATmega2560

* -----------------------------------------------------------------
* ATmega32U4 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT ATmega32U4 PE6 UVCC D_NEG D_POS UGND UCAP VBUS PB0 PB1 PB2 PB3 PB7 RESET VCC_1 GND_1 XTAL2 XTAL1 PD0 PD1 PD2 PD3 PD5 GND_2 VCC_2 PD4 PD6 PD7 PB4 PB5 PB6 PC6 PC7 PE2 VCC_3 GND_3 PF7 PF6 PF5 PF4 PF1 PF0 AREF GND_4 AVCC
* Replace with vendor SPICE model for accurate simulation.
.ENDS ATmega32U4

* -----------------------------------------------------------------
* ATtiny85 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT ATtiny85 PB5 PB3 PB4 GND PB0 PB1 PB2 VCC
* Replace with vendor SPICE model for accurate simulation.
.ENDS ATtiny85

* -----------------------------------------------------------------
* ATtiny84 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT ATtiny84 VCC PB0 PB1 PB3 PB2 PA7 PA6 PA5 PA4 PA3 PA2 PA1 PA0 GND
* Replace with vendor SPICE model for accurate simulation.
.ENDS ATtiny84

* -----------------------------------------------------------------
* STM32F103C8T6 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT STM32F103C8T6 VBAT PC13 PC14 PC15 PD0 PD1 NRST VSSA VDDA PA0 PA1 PA2 PA3 PA4 PA5 PA6 PA7 PB0 PB1 VSS_1 VDD_1 PB2 PB10 PB11 VSS_2 VDD_2 PB12 PB13 PB14 PB15 PA8 PA9 PA10 PA11 PA12 PA13 VSS_3 VDD_3 PA14 PA15 PB3 PB4 PB5 PB6 PB7 BOOT0 PB8 PB9
* Replace with vendor SPICE model for accurate simulation.
.ENDS STM32F103C8T6

* -----------------------------------------------------------------
* STM32F411CEU6 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT STM32F411CEU6 VBAT PC13 PC14 PC15 PH0 PH1 NRST VSSA VDDA PA0 PA1 PA2 PA3 PA4 PA5 PA6 PA7 PB0 PB1 PB2 PB10 VCAP_1 VSS_1 VDD_1 PB12 PB13 PB14 PB15 PA8 PA9 PA10 PA11 PA12 PA13 VSS_2 VDD_2 PA14 PA15 PB3 PB4 PB5 PB6 PB7 BOOT0 PB8 PB9 VSS_3 VDD_3
* Replace with vendor SPICE model for accurate simulation.
.ENDS STM32F411CEU6

* -----------------------------------------------------------------
* RP2040 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT RP2040 IOVDD_1 GP0 GP1 GP2 GP3 GP4 GP5 GP6 GP7 IOVDD_2 GP8 GP9 GP10 GP11 GP12 GP13 GP14 GP15 TESTEN XIN XOUT IOVDD_3 DVDD_1 SWCLK SWDIO RUN GP16 GP17 GP18 GP19 GP20 GP21 IOVDD_4 GP22 GP23 GP24 GP25 GP26 GP27 GP28 GP29 IOVDD_5 ADC_AVDD VREG_VIN VREG_VOUT USB_DM USB_DP USB_VDD IOVDD_6 DVDD_2 QSPI_SD3 QSPI_SCLK QSPI_SD0 QSPI_SD2 QSPI_SD1 QSPI_SS_N
* Replace with vendor SPICE model for accurate simulation.
.ENDS RP2040

* -----------------------------------------------------------------
* ESP32_WROOM_32 — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT ESP32_WROOM_32 GND_1 3V3 EN SENSOR_VP SENSOR_VN GPIO34 GPIO35 GPIO32 GPIO33 GPIO25 GPIO26 GPIO27 GPIO14 GPIO12 GND_2 GPIO13 SD2 SD3 CMD CLK SD0 SD1 GPIO15 GPIO2 GPIO0 GPIO4 GPIO16 GPIO17 GPIO5 GPIO18 GPIO19 GPIO21 RXD0 TXD0 GPIO22 GPIO23 GND_3
* Replace with vendor SPICE model for accurate simulation.
.ENDS ESP32_WROOM_32

* -----------------------------------------------------------------
* ESP8266_12F — placeholder (no behavioural model).
* Pin order matches the exporter's pin-number sort.
.SUBCKT ESP8266_12F RST ADC EN GPIO16 GPIO14 GPIO12 GPIO13 VCC CS0 MISO GPIO0 MOSI SCLK GND GPIO10 GPIO9 GPIO11 GPIO6 GPIO7 GPIO8 RXD TXD
* Replace with vendor SPICE model for accurate simulation.
.ENDS ESP8266_12F

* === transistors ===
* Placeholder models — vendor parameters required for accurate I-V, beta,
* and switching behaviour. SPICE accepts empty model bodies which fall
* back to the simulator's built-in defaults.

.MODEL BC547    NPN()
.MODEL BC557    PNP()
.MODEL Q2N3904  NPN()
.MODEL Q2N3906  PNP()
.MODEL Q2N2222  NPN()
.MODEL TIP120   NPN()
.MODEL Q2N7000  NMOS()
.MODEL BS170    NMOS()
.MODEL IRLB8721 NMOS()
.MODEL IRFZ44N  NMOS()

* === diodes ===
* Placeholder models — vendor parameters required for accurate V_F, V_R,
* breakdown (Zeners), and recovery (Schottky). Defaults yield a silicon-
* diode-like curve; BV is set for Zener parts only.

.MODEL D1N4148  D()
.MODEL D1N4001  D()
.MODEL D1N4007  D()
.MODEL D1N5817  D()
.MODEL D1N4733A D(BV=5.1)
.MODEL D1N4742A D(BV=12)
